US03961055
A mixture of 2-isopropoxy-6-methylsulphonyl-10-(3-chloropropyl)phenothiazine (20 g.), 4-hydroxyethylpiperidine (6.4 g.) and sodium bicarbonate (16.5 g.) in dimethylformamide (170 cc.) is heated at 150°C. for 7 hours 30 minutes with stirring. The reaction mixture is then treated under the conditions mentioned in Example 1. 2-Isopropoxy-6-methylsulphonyl-10-[3-(4-hydroxyethylpiperidino)propyl]phenothiazine (9.0 g.), melting at about 50°C., is thus obtained.

reactant | 2-isopropoxy-6-methylsulphonyl-10-(3-chloropropyl)phenothiazine | 20 g | C(C)(C)OC1=CC=2N(C3=CC=CC(=C3SC2C=C1)S(=O)(=O)C)CCCCl | C19H22ClNO3S2
reactant | 4-hydroxyethylpiperidine | 6.4 g | OCCC1CCNCC1 | C7H15NO
reactant | sodium bicarbonate | 16.5 g | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 170 cc | CN(C=O)C | C3H7NO
product | 2-Isopropoxy-6-methylsulphonyl-10-[3-(4-hydroxyethylpiperidino)propyl]phenothiazine | 9.0 g | C(C)(C)OC1=CC=2N(C3=CC=CC(=C3SC2C=C1)S(=O)(=O)C)CCCN1CCC(CC1)CCO | C26H36N2O4S2
